US06818663B2
A. Dimethyl-[2-(4-nitro-phenoxy)-ethyl]-amine
Sodium hydride (60% in oil, 1.04 g, 26 mmol) was placed in a round bottom flask and washed with hexanes and then was suspended in tetrahydrofuran and cooled to 0° C. A solution of 2-dimethylamino-ethanol (Aldrich, 1.78g, 20 mmol) in tetrahydrofuran was added and the suspension was stirred at 0° C. for 30 minutes and at room temperature for 1 hour. Then, the suspension was cooled to −20° C. and a solution of 4-fluoro nitrobenzene (Aldrich, 3.95g, 28 mmol) in tetrahydrofuran was added. The mixture was stirred for 2 hours by gradually increasing the temperature to around 5° C. The reaction was quenched by addition of 1N HCl and the mixture was washed with ether and basified with 1 N NaOH and extracted with diethyl ether. The extract was dried (Na2SO4) and concentrated to give a light yellow oil. 2.8 g, 66%. MS (ES) MH+=211.

reactant | Sodium hydride | 26 mmol, 1.04 g | [H-].[Na+]
reactant | 2-dimethylamino-ethanol | 20 mmol, 1.78g | CN(CCO)C | C4H11NO
reactant | 4-fluoro nitrobenzene | 28 mmol, 3.95g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Dimethyl-[2-(4-nitro-phenoxy)-ethyl]-amine | CN(CCOC1=CC=C(C=C1)[N+](=O)[O-])C | C10H14N2O3
